* source PRE-AMP-DISCRET
.EXTERNAL OUTPUT INPUT
.EXTERNAL OUTPUT -15V
.EXTERNAL OUTPUT +15V
.EXTERNAL OUTPUT OUTPUT
R_R1         N15026 N14894  68 TC=0,0 
R_R2         N15026 N14890  68 TC=0,0 
R_R3         0 N14843  10k TC=0,0 
C_C1         N14836 N14843  2.2u  TC=0,0 
V_V1         0 N15026 15Vdc
V_V2         N15461 0 15Vdc
R_R4         N14925 N14929  100 TC=0,0 
R_R5         N14921 N14929  100 TC=0,0 
Q_Q6         N14929 N15435 N49560 BC860C 
R_R6         N49560 N15461  150 TC=0,0 
R_R7         0 N15435  10k TC=0,0 
V_V3         N14836 0  AC 0.1V
+SIN 0V 0.1V 1kHz 0 0 0
Q_Q7         0 N14882 N15214 BC850C 
Q_Q8         N15258 N15214 N15026 BC850C 
R_R8         N15026 N15214  2.2k TC=0,0 
C_C2         N14882 N15258  270p  TC=0,0 
Q_Q9         N15258 N15435 N15839 BC860C 
Q_Q10         N15369 N15435 N15835 BC860C 
Q_Q11         N15026 N15258 N15369 BC860C 
R_R9         0 N15624  22k TC=0,0 
R_R10         N15624 N15369  22k TC=0,0 
R_R11         N15835 N15461  100 TC=0,0 
R_R12         N15839 N15461  100 TC=0,0 
C_C4         N15624 N15369  4.7p  TC=0,0 
R_R28         INPUT N48306  100k TC=0,0 
C_C11         N48306 0  1u  TC=0,0 
X_U15         N48306 N48500 +15V -15V OUTPUT OPA188
D_D4         -15V N48306 D1N4148_1 
C_C12         N48500 OUTPUT  1u  TC=0,0 
R_R29         0 N48500  100k TC=0,0 
D_D3         N48306 +15V D1N4148_1 
R_R30         N15369 INPUT  47 TC=0,0 
R_R23         0 INPUT  47k TC=0,0 
R_R31         0 OUTPUT  10k TC=0,0 
Q_Q16         N15435 N49560 N15461 BC860C 
X_U16         N14921 N15624 N14886 BCM857DS
X_U17         N14925 N14843 N14882 BCM857DS
X_U18         N14890 N14886 N14886 BCM847DS
X_U19         N14894 N14886 N14882 BCM847DS
.IC         V(OUTPUT )=0
.IC         V(N48306 )=0
