* source PRE-AMP-OPA627
X_U1         N14658 N14601 N14500 N14488 N14589 OPA627/BB
X_U2         N14589 N14488 N14938 LM334 
V_V1         N14500 0 +15Vdc
V_V2         N14488 0 -15Vdc
R_R1         0 N14658  10k TC=0,0 
R_R2         0 N14601  1k TC=0,0 
R_R3         N14589 N14601  500 TC=0,0 
R_R4         N14993 N14589  47 TC=0,0 
V_V3         N14658 0  AC 1V
+SIN 0V 0.5V 1kHz 0 0 0
R_R5         0 N14993  47k TC=0,0 
R_R6         N14938 N14488  33.2 TC=0,0 
