* source GM-ECC88
V_V1         N14866 0 100V
R_R1         N17823 N14687  200k TC=0,0 
R_R4         N17600 N14527  10 TC=0,0 
X_VL1         N17600 N14687 0 6DJ8
M_M1         N14866 N17614 N17621 N17621 DN2540           
M_M2         N17621 N17742 N17625 N17625 DN2540           
R_R5         N17625 N17614  1k TC=0,0 
R_R6         N14527 N17742  1k TC=0,0 
R_R7         N14527 N17625  500 TC=0,0 
C_C3         N14527 N14866  4.7u  TC=0,0 
V_V3         N17823 0 -2V
C_C4         N14687 N18946  100nF  TC=0,0 
V_V4         N18946 0  AC 0V
+SIN 0V 100mV 1kHz 0 0 0
